US05079260
3-(4-Methylfluoren- 9-yl)propionyl Chloride
3-(4-Methylfluoren-9-yl)propionic acid (3.5 g, 13 9 mmol) was charged with SOCl2 (20 mL, in excess) at room temperature. The reaction mixture was boiled for 2 hr. The reaction was monitored by TLC (silica RP-18, 70% methanol/water). The excess of thionyl chloride was removed under reduced pressure, the residue (an oil) was used for the next step without further purification.

reactant | 3-(4-Methylfluoren-9-yl)propionic acid | 9 mmol, 3.5 g | CC1=CC=CC=2C(C3=CC=CC=C3C12)CCC(=O)O | C17H16O2
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
solvent | methanol water | CO.O
product | 3-(4-Methylfluoren- 9-yl)propionyl Chloride | CC1=CC=CC=2C(C3=CC=CC=C3C12)CCC(=O)Cl | C17H15ClO
